Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
COPD exacerbation
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ M w hx asthma (since childhood), multiple environmental
allergies, COPD, and current smoker, presented with 2 days of
productive cough and increased shortness of breath. 

Has long hx of hospitalizations for COPD, one requiring
intubation ___ years ago, most recently in ___. Just moved to
___ from ___. Started having a cold w rhinorrhea and
sneezing several days ago, which is how his exacerbations 
usually
being. Describes green sputum and one episode of post-tussive
emesis (non-bloody). He is on several inhaled maintenance
medications for his COPD. He denies fevers, chills, chest pain,
abdominal pain, dysuria, frequency, extremity weakness or
paresthesia, recent travel, hemoptysis, nausea, or diarrhea. 

His pulmonologist is Dr. ___ in ___ (___)
and he requests she be contacted in the morning. 

Peak flows post duonebs were 125 in AM, 150 in ___. 
In the ED, initial vitals: T 97.1 HR 112 BP 116/80 RR 18 97%RA   


 - Exam notable for:  
-No increased work of breathing
-Vital signs stable, afebrile, normal SPO2
-Breath sounds severely decreased in all lung fields, scattered
expiratory wheezes, no focal consolidation
-No JVD, peripheral edema or signs of heart failure

 - Labs notable for: lactate 1.4 --> 3.6 --> 3.4, WBC 14.8, HGB
13.0, gluc 124, BMP wnl, trop neg x2, flu negative 

 - Imaging notable for: CXR w hyperexpanded lungs otherwise WNL

 - Pt given:  pred, azithro, montelukast
___ 05:16 PO PredniSONE 60 mg 
___ 05:17 IH Albuterol 0.083% Neb Soln 1 NEB 
___ 05:17 IH Ipratropium Bromide Neb 1 NEB  
___ 05:55 IH Albuterol 0.083% Neb Soln 1 NEB 
___ 05:55 IH Ipratropium Bromide Neb 1 NEB 
___ 06:31 IH Albuterol 0.083% Neb Soln 1 NEB 
___ 06:31 IH Ipratropium Bromide Neb 1 NEB 
___ 06:50 PO Azithromycin 500 mg 
___ 12:19 IH Ipratropium Bromide Neb 1 NEB  
___ 12:19 IH Albuterol 0.083% Neb Soln 1 NEB 
___ 12:19 PO/NG Montelukast 10 mg  
___ 17:40 IH Ipratropium Bromide Neb 1 NEB   
___ 17:40 IH Albuterol 0.083% Neb Soln 1 NEB 

 - Vitals prior to transfer: HR 101 BP 123/75 RR 22 100% RA   

Upon arrival to the floor, the patient reports the above 
history.
He has been smoking on and off since age ___, recently quit but
then started smoking again.  

REVIEW OF SYSTEMS: As above.   

 
Past Medical History:
- Asthma
- COPD
- Seasonal allergies 
- Osteoarthritis 

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VITALS: Temp: 99.2 PO BP: 130/77 HR: 101 RR: 18 O2 sat: 95% RA 
GENERAL: well developed, well nourished, frequent coughing fits 
HEENT: sclera anicteric, MMM
CARDIAC: regular rate and rhythm, no murmurs, rubs, or gallops
LUNGS: poor air movement throughout w wheezing and rhonchi,
slightly inc WOB on RA
ABDOMEN: soft, non-tender, non-distended, bowel sounds present,
no rebound or guarding
GU: No foley
EXTREMITIES: warm, well perfused, no cyanosis or edema
NEURO: AOx3, face symmetric, moving all extremities w purpose 
and
against gravity  

DISCHARGE PHYSICAL EXAM
=======================

 
Pertinent Results:
ADMISSION LABS
==============
___ 07:35AM BLOOD WBC-14.8* RBC-4.42* Hgb-13.0* Hct-40.2 
MCV-91 MCH-29.4 MCHC-32.3 RDW-14.5 RDWSD-48.2* Plt ___
___ 07:35AM BLOOD Neuts-79.9* Lymphs-11.1* Monos-5.7 
Eos-2.3 Baso-0.4 Im ___ AbsNeut-11.79* AbsLymp-1.64 
AbsMono-0.84* AbsEos-0.34 AbsBaso-0.06
___ 07:35AM BLOOD Glucose-124* UreaN-15 Creat-0.9 Na-141 
K-4.1 Cl-106 HCO3-21* AnGap-14
___ 07:35AM BLOOD cTropnT-<0.01
___ 08:35PM BLOOD cTropnT-<0.01
___ 10:43AM BLOOD ___ pO2-71* pCO2-43 pH-7.39 
calTCO2-27 Base XS-0
___ 07:46AM BLOOD Lactate-1.4

IMAGING
=======
CXR (___)
----------
IMPRESSION: 
  
1. No definite pneumonia. 
2. The lungs are hyperexpanded, compatible with provided history 
of COPD. 

DISCHARGE LABS
==============

 
Brief Hospital Course:
SUMMARY
=======
___ yo M with hx of COPD, asthma, seasonal allergies, current 
smoker who presented to ED with increased sputum production, 
worsening cough, rhinorrhea with concern for COPD exacerbation 
likely precipitated by viral URI.

ACTIVE ISSUES
=============
#COPD Exacerbation
#Asthma
Patient presented with increased sputum production and worsening 
cough consistent with COPD exacerbation in the setting of 
several days of rhinorrhea, cough, occasional fevers/chills at 
home, which was thought to be a viral URI. Flu PCR was negative, 
and CXR was clear. Patient had a mild leukocytosis to 14.8. He 
was given prednisone 60 mg and azithromycin 250 mg in the ED 
(___) as well as duonebs q6h and ipratropium q2h PRN for a 
planned 5-day course of both prednisone 40 mg and azithromycin 
250 mg. Patient remained on room air during his hospital stay 
with goal oxygen saturation of 88-92%, and he remained above 
goal on room air during his hospitalization. His home 
montelukast was continued.

#Abnormal EKG
Patient found to have incomplete RBBB on EKG; unsure if this is 
a new finding as did not have patient's baseline EKG's since he 
just moved to ___. A new RBBB in the setting of COPD could 
indicate developing right heart strain; as patient was euvolemic 
on presentation and remained euvolemic as well as normal cardiac 
exam, no urgent need for echocardiogram, and it was decided to 
defer echo for the patient to receive as an outpatient.

#Smoking cessation
Patient in contemplative stage. He has tried Chantix in the past 
which has worked for him, but he has said that his insurance 
didn't cover it which is why he stopped. 

#Elevated lactate
Thought to be ___ albuterol use as patient was not septic. 
Initial lactate 3.6 after nebulizer in ED, repeat 3.4, and not 
trended as it was downtrending.

CHRONIC ISSUES
==============
#Seasonal allergies
-Patient's home montelu___ was continued.

TRANSITIONAL ISSUES
===================
[ ]Smoking cessation - as patient in contemplative stage, please 
continue to support him and provide resources as needed
[ ]Abnormal EKG - please help patient coordinate getting an 
echocardiogram done to assess for right heart strain or other 
reasons for incomplete RBBB

CORE MEASURES
=============
Contact: None
Code: Full (confirmed)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing 
2. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 
3. Montelukast 10 mg PO DAILY 
4. Ipratropium-Albuterol Neb 1 NEB NEB ASDIR 

 
Discharge Medications:
1.  Azithromycin 250 mg PO DAILY Duration: 1 Dose 
Start on ___ 
RX *azithromycin 250 mg 1 tablet(s) by mouth Once a day Disp #*1 
Tablet Refills:*0 
2.  Guaifenesin-CODEINE Phosphate ___ mL PO Q6H:PRN intense 
coughing 
RX *codeine-guaifenesin 10 mg-100 mg/5 mL 5 mL by mouth As 
needed for cough at bedtime Refills:*0 
3.  PredniSONE 40 mg PO DAILY Duration: 1 Dose 
Start on ___ 
RX *prednisone 20 mg 2 tablet(s) by mouth Once a day Disp #*2 
Tablet Refills:*0 
4.  Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing  
5.  Ipratropium-Albuterol Neb 1 NEB NEB ASDIR 
RX *ipratropium-albuterol 0.5 mg-3 mg (2.5 mg base)/3 mL 1 
ampule neb Every 6 hours as needed Disp #*56 Ampule Refills:*0 
6.  Montelukast 10 mg PO DAILY  
7.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
COPD Exacerbation

SECONDARY DIAGNOSES
===================
Asthma
Seasonal allergies
Upper respiratory viral infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you.

WHY WAS I ADMITTED TO THE HOSPITAL?
You were admitted to the hospital because of a flare-up of your 
COPD. We think it was due to a viral infection of your 
respiratory system.

WHAT WAS DONE WHILE I WAS HERE?
We gave you steroids, various forms of nebulizers, antibiotics, 
and cough medicine to help calm your lungs down. 

WHAT DO I NEED TO DO ONCE I LEAVE THE HOSPITAL?
-Continue taking the antibiotic and steroid for one more day 
(your last day will be ___.
-Continue using the duonebs treatment every 6 hours until you 
are back at your baseline breathing status.
-Continue using your home medications as previously directed.
-Please continue to think about quitting smoking, as it will 
greatly help your breathing; you can speak with your primary 
doctor about quitting strategies when you are ready.
-Please follow-up with your primary doctor within 1 week of 
leaving the hospital.

Be well,

Your ___ Care Team
 
Followup Instructions:
___